US03968116
5-Ethylsulfonyl-3-nitro-2-aminopyridine is reacted with trifluoroacetic anhydride to obtain 5-ethylsulfonyl-3-nitro-2-(trifluoroacetamido)pyridine, which on hydrogenation in the presence of palladium on carbon yields 6-ethylsulfonyl-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)pyridine.

reactant | 5-Ethylsulfonyl-3-nitro-2-aminopyridine | C(C)S(=O)(=O)C=1C=C(C(=NC1)N)[N+](=O)[O-] | C7H9N3O4S
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
catalyst | palladium on carbon | [Pd] | Pd
product | 5-ethylsulfonyl-3-nitro-2-(trifluoroacetamido)pyridine | C(C)S(=O)(=O)C=1C=C(C(=NC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C9H8F3N3O5S
